US06727264B1
N-(3-{1-[4-(4-TERT-BUTYL-1,3-THIAZOL-2-YL)BENZYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 4-(4-tert-butyl-1,3-thiazol-2-yl)benzaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide.

reactant | 4-(4-tert-butyl-1,3-thiazol-2-yl)benzaldehyde | C(C)(C)(C)C=1N=C(SC1)C1=CC=C(C=O)C=C1 | C14H15NOS
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[4-(4-TERT-BUTYL-1,3-THIAZOL-2-YL)BENZYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | C(C)(C)(C)C=1N=C(SC1)C1=CC=C(CN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=C1 | C29H37N3OS
